US07626021B2
200 mg (0.34 mmol) of 2-tert-butoxycarbonylamino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid were dissolved in 5 mL of glacial acetic acid. 500 μL of 70% perchloric acid was added and the mixture left at ambient temperature for 24 h. 3 mL of water and 300 μL of mercaptoacetic acid was added and the mixture heated to 80° C. for 20 h. The resulting mixture was cooled to room temperature and diluted with 50 mL of water. The resulting precipitate was filtered off and dried by suction to afford 101 mg (0.28 mmol, 82%) of 2-amino-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid as a red-brown solid. MS: m/z 361.1 (M+H+).

reactant | 2-tert-butoxycarbonylamino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.34 mmol, 200 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C31H38N4O6Si
reactant | perchloric acid | 500 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | mercaptoacetic acid | 300 μL | SCC(=O)O | C2H4O2S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | 2-amino-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.28 mmol, 101 mg, 82% | NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C20H16N4O3
